US05116861
To the solution of tetrabutylammonium N-t-butoxycarbonyl-S-trityl-L-penicillamyl-p-sulfophenylalanine (B-23)(7.5 g) and 2,6-lutidine (3.8 ml) in dichloromethane (100 ml), was added dropwise at 0° C. the solution of trimethylsylyl trifluoromethanesulfonate (5.5 ml), and the mixture was stirred for 1 hour while the temperature was gradually returned to the room temperature. The solvent was evaporated off under reduced pressure and the residue was washed with diethyl ether and acetone, in this order, to give S-trityl-L-penicillamyl-p-sulfophenylalanine (3.lg).

reactant | tetrabutylammonium N-t-butoxycarbonyl-S-trityl-L-penicillamyl-p-sulfophenylalanine | 7.5 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)S(=O)(=O)O)C(=O)O.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2,6-lutidine | 3.8 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonate | 5.5 ml | FC(S(=O)(=O)[O-])(F)F
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | S-trityl-L-penicillamyl-p-sulfophenylalanine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC([C@H](N)C(=O)N[C@@H](CC1=CC=C(C=C1)S(=O)(=O)O)C(=O)O)(C)C | C33H34N2O6S2
